**************************************************
* Manufacturer:       Wurth Elektronik
* Kinds:    White High power LED
* Matchcode:         WL-SWTC SMD White Top view Ceramic  LED
* Library Type:       Pspice
* Version:        rev18a       
* Date and Time   :       2018-8-4
* Team:           eiSos EDA Service  
* Contact:        libraries@we-online.com
**************************************************
.subckt  3535_158353030  1  2
D1 1 2 led
.MODEL led D
+ IS=10.010E-21
+ N=2.4445
+ RS=1.0000E-6
+ IKF=1.0000E3
+ CJO=0.000000000000044509
+ M=0.1
+ VJ=9.99
.ends
*****
.subckt  3535_158353027  1  2
D1 1 2 led
.MODEL led D
+ IS=10.010E-21
+ N=2.4445
+ RS=1.0000E-6
+ IKF=1.0000E3
+ CJO=0.000000000000044509
+ M=0.1
+ VJ=9.99
.ends
*****
.subckt  3535_158353040  1  2
D1 1 2 led
.MODEL led D
+ IS=10.010E-21
+ N=2.4445
+ RS=1.0000E-6
+ IKF=1.0000E3
+ CJO=0.000000000000044509
+ M=0.1
+ VJ=9.99
.ends
*****
.subckt  3535_158353050  1  2
D1 1 2 led
.MODEL led D
+ IS=10.010E-21
+ N=2.4445
+ RS=1.0000E-6
+ IKF=1.0000E3
+ CJO=0.000000000000044509
+ M=0.1
+ VJ=9.99
.ends
*****
.subckt  3535_158353060  1  2
D1 1 2 led
.MODEL led D
+ IS=10.010E-21
+ N=2.4445
+ RS=1.0000E-6
+ IKF=1.0000E3
+ CJO=0.000000000000044509
+ M=0.1
+ VJ=9.99
.ends
*****